US03933913
Following the procedure of Example 6, 2.5 g. of methanesulfonyl chloride is added to a solution of 6.78 g. (0.01 m.) of N,N'-dibenzyl-N,N'-bis[2-(3-aminomethyl-4-methoxyphenyl)-ethyl]-hexamethylenediamine in 30 ml. of pyridine and the mixture is allowed to stand at room temperature overnight to yield N,N'-dibenzyl-N,N'-bis[2-(3-methanesulfonamidomethyl-4-methoxyphenyl)-ethyl]-hexamethylenediamine. The latter as the dihydrochloride is demethylated and then debenzylated as described in Example 9 to furnish the product N,N'-[2-(4-hydroxy-3-methanesulfonamidomethylphenyl)-ethyl]-hexamethylenediamine dihydrochloride.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N'-dibenzyl-N,N'-bis[2-(3-aminomethyl-4-methoxyphenyl)-ethyl]-hexamethylenediamine | C(C1=CC=CC=C1)N(CCCCCCN(CCC1=CC(=C(C=C1)OC)CN)CC1=CC=CC=C1)CCC1=CC(=C(C=C1)OC)CN | C40H54N4O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N,N'-dibenzyl-N,N'-bis[2-(3-methanesulfonamidomethyl-4-methoxyphenyl)-ethyl]-hexamethylenediamine | C(C1=CC=CC=C1)N(CCCCCCN(CCC1=CC(=C(C=C1)OC)CNS(=O)(=O)C)CC1=CC=CC=C1)CCC1=CC(=C(C=C1)OC)CNS(=O)(=O)C | C42H58N4O6S2
